US06352989B1
1,2-Diethoxybenzene
15.0 g of 2-ethoxyphenol, 18.0 ml of iodoethane and 30.0 g of potassium carbonate were suspended in 150 ml dimethylformamide, and the mixture was stirred at 80° C. for 30 hours. Ethyl acetate was added thereto, and the mixture was washed with water for five times and with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound quantitatively as a red-brown oil.

reactant | 2-ethoxyphenol | 15.0 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | iodoethane | 18.0 ml | ICC | C2H5I
reactant | potassium carbonate | 30.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1,2-Diethoxybenzene | C(C)OC1=C(C=CC=C1)OCC | C10H14O2
